* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP2\Ej5\Simulacion\punto 5.asc
R1 V+ vcc+ 47k
R2 0 V+ 47k
R3 N001 V- 10k
R4 N002 V- 100k
R5 N003 P001 10k
C1 V+ Vin 390n
C2 N001 0 1µ
C3 N002 P001 100nf
R6 signal_out N003 2k
C4 signal_out 0 18n
D1 N003 0 1N4148
D2 0 N003 1N4148
R7 signal_out 0 10K
R8 Vin 0 1Meg
C5 vcc+ 0 1µF
V2 vcc+ 0 9
V1 Vin 0 SINE(-0 100mV 1Meg 0 0 0) AC 1.
XU1 V+ V- NC_01 0 N002 NC_02 vcc+ LT1008
.model D D
.lib C:\Users\mlste\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc "opamp variete\OPAMPLIB.lib"
.inc "1N4148\1n4148.sub"
.ac dec 100 10 10000000
.wave "output.wav" 16 44100 signal_out
.lib LTC.lib
.backanno
.end
